US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(2-hydroxy-ethyl)-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with 2-[(pyridin-2-ylmethyl)-amino]-ethanol

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | 2-[(pyridin-2-ylmethyl)-amino]-ethanol | N1=C(C=CC=C1)CNCCO | C8H12N2O
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(2-hydroxy-ethyl)-N-pyridin-2-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC=CC=C1)CCO)C1=CC(=CC=C1)N(C)C | C28H36N4O4S
